US09376418B2
Potassium tert-butoxide (34.3 mg, 0.305 mmol) was added to a solution of 1-(2-chloroethyl)-3-{[5-(3-methyl-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)pyridin-2-yl]methyl}urea (129 mg, 0.277 mmol) in THF (4.62 mL). The reaction mixture was stirred at room temperature overnight under an argon atmosphere. An additional equivalent of potassium tert-butoxide was added to the reaction. The solvent was removed under reduced pressure and the residue was directly purified by reverse phase HPLC (10-75% acetonitrile in water+0.5% TFA). The isolated fractions were partitioned between 10% IPA/chloroform and saturated aqueous NaHCO3. The organic layer was washed with brine, dried over sodium sulfate, filtered, and concentrated under reduced pressure to give 1-{[5-(3-methyl-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)pyridin-2-yl]methyl}imidazolidin-2-one. MS APCI calc'd for C21H20F3N6O [M+H]+ 429. found 429. 1H NMR (500 MHz, DMSO-d6) δ 10.27 (s, 1H), 8.82 (d, J=4.8 Hz, 1H), 8.75 (d, J=2.4 Hz, 1H), 8.05-7.83 (m, 2H), 7.55 (s, 1H), 7.35 (d, J=8.0 Hz, 1H), 7.27 (d, J=4.9 Hz, 1H), 7.18 (s, 1H), 6.47 (s, 1H), 4.36 (s, 2H), 3.38-3.44 (m, 4H), 2.35 (s, 3H).

reactant | Potassium tert-butoxide | 0.305 mmol, 34.3 mg | CC(C)([O-])C.[K+]
reactant | 1-(2-chloroethyl)-3-{[5-(3-methyl-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)pyridin-2-yl]methyl}urea | 0.277 mmol, 129 mg | ClCCNC(=O)NCC1=NC=C(C=C1)C1=CC(=CC(=C1)NC1=NC=CC(=N1)C(F)(F)F)C | C21H20ClF3N6O
solvent | THF | 4.62 mL | C1CCOC1 | C4H8O
product | 1-{[5-(3-methyl-5-{[4-(trifluoromethyl)pyrimidin-2-yl]amino}phenyl)pyridin-2-yl]methyl}imidazolidin-2-one | CC=1C=C(C=C(C1)NC1=NC=CC(=N1)C(F)(F)F)C=1C=CC(=NC1)CN1C(NCC1)=O | C21H19F3N6O
